US08492582B2
Trifluoroacetic acid (3.0 mL) was added to the obtained tert-butyl 4-anilino-2-(5-phenylpyridine-3-carboxamido)benzoate, followed by stirring at room temperature for 1 hour and 30 minutes. The solvent was evaporated under reduced pressure, and diisopropyl ether was added to the obtained residue. The solid substance was collected by filtration. Dioxane (3.0 mL) and a 2 mol/L aqueous solution of sodium hydroxide (0.068 mL) were sequentially added to the obtained solid substance, followed by stirring at room temperature for 1 hour and 30 minutes. A 10% aqueous solution of citric acid was added to the reaction mixture, and the solid substance was collected by filtration to obtain 73 mg of 4-anilino-2-(5-phenylpyridine-3-carboxamido)benzoic acid as a yellow solid.

reactant | Trifluoroacetic acid | 3.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-anilino-2-(5-phenylpyridine-3-carboxamido)benzoate | N(C1=CC=CC=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C29H27N3O3
product | 4-anilino-2-(5-phenylpyridine-3-carboxamido)benzoic acid | 73 mg | N(C1=CC=CC=C1)C1=CC(=C(C(=O)O)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C25H19N3O3
